US04829071
5-Amino-2-[N-(4-aminobenzyl)-N-methylamino]indane
2-[N-Methyl-N-(4-nitrobenzyl)amino]-5-nitroindane (2.3 g) in ethyl acetate (60 ml) containing 5% Pd/C (. . . g) was stirred under a hydrogen atmosphere [206.8 kPa (30 psi)] for 1 hour at room temperature. The catalyst was then removed by filtration and the filtrate was evaporated to dryness in vacuo. The residue was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 1%). The product-containing fractions were combined and evaporated to give the title compound (1.1 g) as an oil which was used directly without further purification.

reactant | 2-[N-Methyl-N-(4-nitrobenzyl)amino]-5-nitroindane | 2.3 g | CN(CC1=CC=C(C=C1)[N+](=O)[O-])C1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C17H17N3O4
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 5-Amino-2-[N-(4-aminobenzyl)-N-methylamino]indane | 1.1 g | NC=1C=C2CC(CC2=CC1)N(C)CC1=CC=C(C=C1)N | C17H21N3
